US08859768B2
To a solution of N-(2,4-dimethoxybenzyl)-N-(4-iodo-5-methylpyridin-2-yl)cyclopropanecarboxamide (1.8 g, 3.95 mmol) in DCM (23 mL) was added TFA. The reaction mixture was allowed to stir at rt overnight and then concentrated. The residue was diluted with DCM and aqueous saturated NaHCO3 and the mixture was extracted with DCM. The organic solutions were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give N-(4-iodo-5-methylpyridin-2-yl)cyclopropanecarboxamide (1.0 g, 75%).

reactant | N-(2,4-dimethoxybenzyl)-N-(4-iodo-5-methylpyridin-2-yl)cyclopropanecarboxamide | 3.95 mmol, 1.8 g | COC1=C(CN(C(=O)C2CC2)C2=NC=C(C(=C2)I)C)C=CC(=C1)OC | C19H21IN2O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 23 mL | C(Cl)Cl | CH2Cl2
product | N-(4-iodo-5-methylpyridin-2-yl)cyclopropanecarboxamide | 1.0 g, 75% | IC1=CC(=NC=C1C)NC(=O)C1CC1 | C10H11IN2O
